US06388084B1
A solution of 4-(1-benzyl-5-chloro-2-oxo-3-pyridinyl)-N-[[1-(2-methoxyethyl)cyclopentyl]carbonyl]-L-phenylalanine methyl ester (78 mg, 0.142 mmol) in THF (3 mL) was treated with a solution of lithium hydroxide monohydrate (24 mg, 0.57 mmol) in water (1.0 mL). Sufficient THF was added to the mixture to effect solution. The mixture was stirred 1 hr and a few drops of acetic acid were added. The entire reaction mixture was applied to a 4×30 cm, C-18 reversed phase HPLC column and eluted with a gradient of acetonitrile in water of 5- to 95% over 35 min. The product containing fraction was lyophillyzed to give 4-(5-chloro-1-benzyl-2-oxo-3-pyridinyl)-N-[[1-(2-methoxyethyl)cyclopentyl]carbonyl]-L-phenylalanine (45 mg, 60%) as a white solid. LRMS-Electrospray: m/z positive ion 559 (M+Na), 554 (M+NH4), 537 (M+H (1 Cl)); negative ion 535 (M−H (1 Cl)). HRMS: obs. mass 537.2151. calcd. mass 537.2156 (M+H).

reactant | 4-(1-benzyl-5-chloro-2-oxo-3-pyridinyl)-N-[[1-(2-methoxyethyl)cyclopentyl]carbonyl]-L-phenylalanine methyl ester | 0.142 mmol, 78 mg | COC([C@@H](NC(=O)C1(CCCC1)CCOC)CC1=CC=C(C=C1)C=1C(N(C=C(C1)Cl)CC1=CC=CC=C1)=O)=O | C31H35ClN2O5
reactant | lithium hydroxide monohydrate | 0.57 mmol, 24 mg | O.[OH-].[Li+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | 1.0 mL | O | H2O
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
product | 4-(5-chloro-1-benzyl-2-oxo-3-pyridinyl)-N-[[1-(2-methoxyethyl)cyclopentyl]carbonyl]-L-phenylalanine | 45 mg, 60% | ClC=1C=C(C(N(C1)CC1=CC=CC=C1)=O)C1=CC=C(C[C@H](NC(=O)C2(CCCC2)CCOC)C(=O)O)C=C1 | C30H33ClN2O5
